US09382243B2
5-(4-bromophenyl)-6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine
5-(4-bromophenyl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)-ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (2.6 g, 5.03 mmol), (4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-ol (1.307 g, 5.53 mmol), and cesium carbonate (4.92 g, 15.09 mmol) were dissolved in DMF (25.1 mL). The reaction mixture was stirred overnight at rt, then diluted with EtOAc and saturated NH4C/water (50:50). The aqueous phase was extracted with EtOAc (×2) and the combined extracts were washed with sat. NaHCO3 and brine, then dried over Na2SO4, filtered, and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 100 g column by eluting with 10% EtOAc:Hexane to 70% EtOAc:Hexane to yield the desired product. LC-MS: calculated for C31H35BrClN3O5Si 671.12 observed m/e: 671.83 (M+H)+ (Rt 1.37/2 min).

reactant | 5-(4-bromophenyl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)-ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 5.03 mmol, 2.6 g | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)S(=O)(=O)C)Cl | C19H23BrClN3O3SSi
reactant | (4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-ol | 5.53 mmol, 1.307 g | C1(=CC=CC=C1)C1OC[C@@H]2[C@@H](O1)C[C@H](CO2)O | C13H16O4
reactant | cesium carbonate | 15.09 mmol, 4.92 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 25.1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(4-bromophenyl)-6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2)Cl | C31H35BrClN3O5Si
